US08877926B2
A sUspension of (S)-1-phenylethyl-ammonium (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoate (37.2 g, 77.5 mmol, 99.5% de) in aqueoUs isopropanol (50% strength, 90 ml) is admixed with 1N sulfuric acid (97 ml, 48.5 mmol) and stirred for 1 h at RT. The solid is filtered off with suction and dried to give (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid (26.5 g, 95%, >99.9% ee) as a colorless solid.

reactant | (S)-1-phenylethyl-ammonium (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoate | 77.5 mmol, 37.2 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])CN(C1=NC=CC=N1)C1=CC=CC=C1.C1(=CC=CC=C1)[C@H](C)[NH3+]
reactant | sulfuric acid | 48.5 mmol, 1N, 97 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropanol | 90 ml | C(C)(C)O | C3H8O
product | (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid | 26.5 g, 95% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CN(C1=NC=CC=N1)C1=CC=CC=C1 | C18H22N4O4
